Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Anxiety, suicidal thoughts..."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
     Mr. ___ is a ___ mathematics PhD student at 
___ with history of anxiety who was brought to the ED by
ambulance after his psychiatric NP at ___ filed section 12a and
notified police due to concern for suicidal ideation with
multiple plans. Patient reports that he has been having suicidal
thoughts for the past two months in the setting of anxiety and
academic pressures. He has thoughts of killing himself by
multiple means, including cutting, poisoning, jumping off of a
bridge or the atrium at school, and jumping in front of a train.
He experiences these thoughts daily and describes them as
spontaneous "flashes" that come into his brain uncontrollably. 
He
also notes periods of intense anxiety characterized by
catastrophic thinking and shortness of breath which can last for
hours at a time. He endorses chronic feelings of inadequacy in
his academic pursuits, although has been performing well in his
PhD program. Last night, he states he remained awake from 21:00
to 04:00 due to continuous anxiety and suicidal thoughts.
     Patient reports that he does not "see the worth of be being
alive" and states that he has only refrained from killing 
himself
because he is ashamed for having not yet been as productive
academically as he would like. "When you think about people who
kill themselves...it's when they reach a point where they're
comfortable with their legacy." He reports that he initially
sought treatment at ___ two months ago because he felt as though
his suicidal thoughts "couldn't be right". However, when asked 
to
elaborate on how he feels about these thoughts, he is unable and
says that he feels unimpressed by them. He reports one close
friend whom he can talk to, but says that this person is "in an
abusive relationship" and does not want to "add to his stress".
He denies having a "close emotional" relationship with his 
family
members (father, step-mother, sister).

COLLATERAL:
Referral from ___, NP at ___:

     "Patient is a ___ year old PhD student at ___ originally from ___. Student originally
presented to ___ in ___ as an urgent walk-in d/t
suicidal ideation dating back approx. ___ years. Endorsed hx of
suicidal gestures such as tying nooses out of bed sheets and
putting a belt around neck. Endorses hx of an aborted
"co-suicide" attempt at age ___- student vague in providing
details but reported plan of dying by carbon monoxide poisoning
in car with a friend, student reports he aborted this plan after
1 minute and that it was mostly his friend's idea.  
     After initial presentation to ___ student was given 
therapy
referrals and met with psychopharm prescriber who began him on
Lexapro 5mg x1 week, then increase to 10mg. 
     Student has continued to decline, endorsing suicidal 
gesture
on ___ of putting belt around neck. SI continued to increase in
frequency and intensity. Has required multiple emergency
appointments at ___ this week with multiple clinicians 
assessing
that he requires a higher level of care. Most recently (___)
described intense suicidal thoughts following not being prepared
for an academic presentation. Student reports that he has a 
sword
at home and had strong urges to cut self with sword. Cites
academic responsibilities as only reason for not acting on these
urges. Expressed that he does not value his own life and does 
not
understand why others would.
     Upon meeting with student on ___ it was agreed he would
return to ___ at 1pm after academic presentation. Student did
not return for scheduled appointment and based on severity of
prior appointment ___ was initiated. Inpatient level of
care is recommended.   
     Notably, upon initial psychopharm eval student presented
with high BP (172/113) and was sent to ___ ED for medical 
eval.
Has established medical care at ___."

On ___, patient was examined with ___.

___ reported: "I guess I need help to get me out of here".

Mr. ___ reported dealing with depression x ___ since age ___. In
context of starting PhD program 2 months ago, he had worsening 
of
___. While comparing his performance in PhD program to
performance of others, he felt that he is "not good enough". He
shared that he had suicidal thoughts in the past thinking "If I
am not good enough, it's not worth trying anymore". Mr. ___
continued with his usual activities "maintaining facade". He 
went
to the ___ health center and was started on Lexapro, he has
been taking 10mg x one month.
Mr. ___ shared that his last week was quite stressful. He didn't
prepare for school presentation. During the presentation, he
became extremely anxious, "became frozen". He basically said "I
need to go" and left. Looking back, he thinks he has "done a 
show
to cover up (his) inadequacy". He admitted that he had S/I
thinking that he is not good enough. He presented to the ___
health center and was eventually referred to the ED.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: None.
Current treaters and treatment: ___, psychiatric NP at
___; has had two sessions with a therapist at ___ at ___ PCP at ___.
Medication and ECT trials: Lexapro.
Self-injury: Denies.
Harm to others: Denies.
Access to weapons: Denies.

PAST MEDICAL HISTORY:
- HTN

MEDICATIONS:
- Lexapro 10mg daily
- Lisinopril 10mg daily

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Father has remitted alcohol use
disorder and sister has remitted opioid use disorder.

 
Physical Exam:
 VITAL SIGNS:
___ 1034 Temp: 98.6 PO BP: 135/84 HR: 66 RR: 16 O2 sat: 94% 


 EXAM:

General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
 oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
 murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
 tenderness to palpation in all quadrants.  No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally.  VFF to confrontation.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 1+ and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
 swing. 

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: MOYb with 0 errors
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 ___
 grossly intact
 -Fund of knowledge: Consistent with education; intact to last 3
 presidents
 -Calculations: 7 quarters = "$1.75"
 -Abstraction: Interprets "the grass is always greener on the
 other side" as "no matter where you are, you think something
else is better"
 -Visuospatial: Not assessed
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance: man appearing stated age, well groomed, wearing
 hospital gown, in no apparent distress
 -Behavior: Sitting up in exam chair, appropriate eye contact,
slight psychomotor agitation. Noted to pull at his hair, rub his
eyes.
 -Attitude: Cooperative, engaged, friendly.
 -Mood: "Anxious"
 -Affect: Mood-congruent, full range, appropriate to situation
 -Speech: Somewhat increased rate, normal volume and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: Fair
 -Judgment: Fair

 
Pertinent Results:
___ 04:20PM BLOOD WBC-12.3* RBC-5.66 Hgb-12.4* Hct-41.0 
MCV-72* MCH-21.9* MCHC-30.2* RDW-13.8 RDWSD-35.9 Plt ___
___ 04:20PM BLOOD Neuts-68.7 ___ Monos-6.0 Eos-1.3 
Baso-0.8 Im ___ AbsNeut-8.47* AbsLymp-2.81 AbsMono-0.74 
AbsEos-0.16 AbsBaso-0.10*
___ 04:20PM BLOOD Glucose-144* UreaN-13 Creat-0.7 Na-141 
K-4.6 Cl-98 HCO3-23 AnGap-20*
___ 05:26PM BLOOD ALT-49* AST-31 AlkPhos-114 TotBili-0.2
___ 05:26PM BLOOD Calcium-9.9 Phos-4.3 Mg-2.3
___ 05:26PM BLOOD TSH-1.2
___ 05:26PM BLOOD 25VitD-14*
___ 04:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:26PM BLOOD WBC-13.0* RBC-5.79 Hgb-12.5* Hct-42.1 
MCV-73* MCH-21.6* MCHC-29.7* RDW-13.9 RDWSD-36.0 Plt ___
___ 05:26PM BLOOD Neuts-61.8 ___ Monos-8.7 Eos-2.9 
Baso-0.8 Im ___ AbsNeut-8.06* AbsLymp-3.30 AbsMono-1.14* 
AbsEos-0.38 AbsBaso-0.10*
___ 05:26PM BLOOD Glucose-113* UreaN-11 Creat-0.7 Na-140 
K-5.2 Cl-100 HCO3-28 AnGap-12
___ 04:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1) Legal/Safety:
 -Pt was admitted on the CV basis, he signed it and it was 
accepted on ___
 -Pt remained on 15 ___ checks and remained in good behavioral 
control
 -Sharps status: monitored access (green sharps). He 
participated in groups. He didn't exhibit any threatening or 
self injurious behaviors throughout the hospital stay.
 -He remained on the unit and didn't have walks outside with 
staff.
 -BPRS: Completed ___
 -Notice of Rights: Given ___
 -General Agreement form: Given and signed during the admission.

2) Psychiatric:
 -Mr. ___ was admitted on the psychiatric unit for 
diagnostic
 clarification, medication management, psychotherapeutic  
intervention, and collaboration with outpatient providers 
-___ was offered opportunity to participate in individual, group, 
and milieu therapy offerings. He remained compliant with meds, 
assessments, milieu.
-Re. medications:
---He continued to take Escitalopram Oxalate 10 mg PO/NG DAILY 
as it was prescribed by his outpatient provider.
 -Following PRN medications were prescribed:
HydrOXYzine 25 mg PO/NG BID:PRN anxiety/insomnia
LORazepam 0.5 mg PO/NG BID:PRN agitation
Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever
Milk of Magnesia 30 ml PO Q8H:PRN Constipation - First Line
Aluminum-Magnesium Hydrox.-Simethicone 30 ml PO Q4H:PRN 
dyspepsia

After obtaining pt's permission, pt's outpatient provider at the 
___ was contacted ___, NP, 
___. We discussed several treatment 
options and agreed that pt tries Propranolol 10mg po qD PRN 
performance anxiety.

3) Substance Use Disorders
 #Alcohol use:
- Mr. ___ did not require any medication interventions. He 
didn't require CIWA/BZD
- He was provided with psychoeducation about negative effect of 
alcohol on gen-medical health, mood (depression), cognitive 
performance and impulse control. Pt was provided with 
psychoeducation about risk for self harm when intoxicated on 
alcohol.

4) Medical:
 #Hypertension
- Lisinopril 10 mg PO/NG DAILY
Pt's BP fluctuated throughout the hospital course with highest 
BP 145/95 on one occasion (without any physical complains). Pt's 
usual BP was around 130/85. Lowest was 115/77.
Pt reported that he was diagnosed with BP and has been 
prescribed Lisinopril 10mg po qD. Considering pt's young age, 
inpatient team recommended Mr. ___ to follow up with primary 
care doctor and to continue medical work up of hypertensions. 
Considering decrease of BP as patients level of anxiety 
improved, it is possible that anxiety contributes to elevated 
BP.
Of note, Mr. ___ reported hx of non restorative sleep. He 
reported waking up tired after sleeping more than 8hrs of sleep. 
He requires quite a bit of coffee during the day. He reports 
being tired as day progresses. He also mentioned weight gain. In 
that context, concern of Obstructive Sleep Apnea arises.
Inpt team recommended pt to obtain sleep study.

5) Social Work/Dispo:
-Social worker was in touch with patient's school.
============================================
Per note ___, ___..."been in touch with 
___ and also been speaking 
with Mr. ___ to keep him informed.  He
continues to note his readiness to be discharged soon and notes
that he is not a threat to himself or others.  he is feeling 
good
about his care here and looking forward to getting back to his
outside life as a student.  

I have reviewed his care plan which he agrees to.  He also 
agrees
to look into any of ___'s numerous clubs for consideration of 
his
decreasing his social isolation. And he has agreed to contact 
his
friend ___ again so that they can reconnect. 

We talked about his filling out at advance directive naming a
health care proxy.  We talked about the importance of his doing
this at some point and he indicated that he was not at all sure
as to who he would want to be his hcp.  He will think further
about this and is aware that he can get ahold of the forms at 
any
time through the ___ portal.  

TREATMENT INTERVENTION PROVIDED:
-Contacting providers and supports
-Evaluating support systems and community resource contacts 
-Coordinating tx and d/c plan with current supports
-Referring to appropriate providers for aftercare
-___ provider ___: pt and current condition
     
TREATMENT GOAL(S) ADDRESSED:
-Greater provider understanding of pt and illness
-Involvement of collateral supports in pt care

DISCHARGE GOAL(S) ADDRESSED:
-Discharge plan:

1. Post-hospitalization appointment - ___ @ 11:30am
   with ___, ___ 
2. Psychopharmacology - ___ @ 9:30am with 
   ___

#1 and #2 are at:
___ Health Services
___ Building, First Floor
___ (emergency services)
___ fax

3. Individual Therapist - ___ @ 5pm with ___
   ___, ___ 
___.

SUMMARY OF CONVERSATION/MEETING:
Spoke with ___, ___ who arranged follow-up appts 
at
___.  And spoke with Mr. ___ who was pleased with the plan,
and agreed to f/up with pursuing clubs of interest at ___ as 
well
as connecting with his long-time friend ___.  

MODIFICATIONS INDICATED FOR TREATMENT & AFTERCARE PLANNING?
-Information gathered does not necessitate change at this time 
to
treatment or aftercare planning

NEXT STEPS:
----------
-Update treatment team with collateral information
-Discuss key points with patient
-Integrate information into treatment and d/c planning

=
=
=
=
================================================================

Team offered Mr. ___ to have telephone conference call with 
his father to discuss patients condition, obtain collateral 
information and discuss treatment plan. Mr. ___ was 
reluctant to do so.
On the discharge day, he eventually agreed to have conversation. 
However, he said he didn't have father's contact info as his 
phone was taken by the NEU police during the admission process.

On the discharge day, Mr. ___ reported feeling well and 
ready for the discharge. He described his mood as "feel excited 
to get back to work"(school work). He shared mild anxiety "how I 
am going to catch up" with work. He placed level of anxiety at 
___. He reported "feeling well". Clearly denied S/H/I. He 
shared about positive plans for future. He is planning to resume 
his studies. He shared that he plans to visit family relatives 
in ___ for ___.

INFORMED CONSENT:
 I discussed the indications for, intended benefits of, and 
possible side effects and risks of Escitalopram, Hydroxyzine, 
Lorazepam, and Propranolol. Discussed risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.  We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to continue and to adjust the 
medication to clinical response.

PROGNOSIS: Considering chronic nature of condition, pt's 
prognosis is guarded.
While, Mr. ___ presented with ___ of depression, anxiety and 
increased suicidal ideations, there are several protective 
factors: he noticed improvement of condition, he was able to 
keep him safe in the past (no hx of suicide attempts). He is 
able to engage in meaningful treatment relationship with 
providers. He was able to minimize exposure to illicit drugs and 
EtOH. He has strong academic background and appears interested 
in continuing with studies. No evidence for psychosis.
Pt has clear outpatient treatment plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO BID:PRN anxiety/insomnia 
RX *hydroxyzine HCl 25 mg one tablet by mouth twice daily PRN 
anxiety Disp #*20 Tablet Refills:*0 
2.  Propranolol 10 mg PO/NG DAILY:PRN performance anxiety 
RX *propranolol 10 mg one tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0 
3.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg one tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
4.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, single episode, moderate
Panic attack disorder
Hypertension
R/o Obstructive Sleep Apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
On exam, Mr. ___ reported feeling well. He described mood as 
'excited to get back to work'. Described mood as 'I feel well'. 
He denied S/H/I. He shared about positive plans for future. He 
looks forward to resuming studies. He also shared that he will 
visit relatives in ___ for ___.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___